US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(tetrahydro-furan-3-ylmethyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and tetrahydrofuran-3-ylmethanol according to the procedure of Example 1 as an off-white solid; 1H NMR (DMSO-d6,400 MHz) δ 1.03 (d, J=6.37 Hz, 3H, CH3), 1.5 (m, 2H, CH2), 1.9 (m, 2H, CH2), 2.6 (m, 3H, CH), 3-3.3 (m, 3H, CH, CH2), 3.4 (brs, 1H, CH), 3.6-3.7 (m, 6H, CH2), 4.1-4.15 (m, 6H, CH2), 5.09 (m, 1H, CH), 6.36 (brs, 1H, OH), 6.86 (m, 1H, Ar--H), 7.07 (m, 2H, Ar--H), 7.38-7.42 (m, 3H, Ar--H), 7.47 (s, 1H, Ar--H), 8.84 (brs, 2H, NH, NH); IR (KBr, cm-1) 3300 (OH), 2900 (NH), 1760 (CO); MS m/e 590 (M+H)+ ; Analysis for: C30H36ClNO9 ×HCl: Calc'd: C, 57.51; H, 5.95; N, 2.24; Found: C, 57.80; H, 6.30; N, 2.21.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | tetrahydrofuran-3-ylmethanol | O1CC(CC1)CO | C5H10O2
reactant | KBr | [K+].[Br-]
reactant | HCl | Cl | ClH
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(tetrahydro-furan-3-ylmethyl) ester | O1CC(CC1)COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC2COCC2 | C30H36ClNO9
